US07109354B2
A solution of 2-bromo-5-methoxy-3-methyl-benzoic acid ((Example 198: step a) 3.39 g, 13.8 mmol) in dry tert-butanol was treated with DPPA (3.58 mL, 16.6 mmol) dropwise and stirred 5 min. The solution was treated with diisopropylethylamine (2.89 mL, 16.6 mmol) and heated to 80° C. 17.5 h. Tert-butanol was removed in vacuo. The residue was taken up in EtOAc and washed with saturated aqueous NaHCO3 (2×60 mL) and water (1×60 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. Silica gel chromatography (10% EtOAc in hexanes) afforded the product (2-bromo-5-methoxy-3-methyl-phenyl)-carbamic acid tert-butyl ester (3.05 g, 70%) as a colorless oil. 1H NMR (CDCl3): δ 7.701 (d, 1H, J=1.6 Hz), 7.146 (s, NH), 6.517 (d, 1H, J=3.2 Hz), 3.797 (s, 3H), 2.360 (s, 3H), 1.534 (s, 9H).

reactant | 2-bromo-5-methoxy-3-methyl-benzoic acid | BrC1=C(C(=O)O)C=C(C=C1C)OC | C9H9BrO3
reactant | DPPA | 16.6 mmol, 3.58 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropylethylamine | 16.6 mmol, 2.89 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
product | (2-bromo-5-methoxy-3-methyl-phenyl)-carbamic acid tert-butyl ester | 3.05 g, 70% | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)OC)C)Br)=O | C13H18BrNO3
